US07253174B2
(c) Synthesis of 3-{5-Bromo-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide
To a solution of 3-{6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide (0.46 g, 1.34 mmol) in methylene chloride (10 mL), was added sat. aq. sodium bicarbonate (2 mL) and bromine (0.07 mL, 1.37 mmol). The resulting mixture was stirred at room temperature for 18 hours, and the reaction was then diluted with water (20 mL). The organic layer was separated and the aqueous layer was extracted with DCM (10 mL). The combined organic layer was dried (sodium sulfate), filtered and concentrated. The residue was purified by silica gel column chromatography using 2% methanol in DCM as eluent to afford the product (250 mg, yield 44%). MS (m/z): 420 (M+H).

reactant | 3-{6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 1.34 mmol, 0.46 g | CC(CN(C1=CC(=NC=N1)NC=1C=C(C(=O)NC)C=CC1C)C)(C)C | C19H27N5O
reactant | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
reactant | bromine | 1.37 mmol, 0.07 mL | BrBr | Br2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 3-{5-Bromo-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 250 mg, yield 44% | BrC=1C(=NC=NC1N(C)CC(C)(C)C)NC=1C=C(C(=O)NC)C=CC1C | C19H26BrN5O
